US07361659B2
To a stirred solution of 5-methyl-4-nitrothiophene-2-sulfonyl chloride [CAS No. 61714-77-0] (1.0 g, 4.14 mmol) in THF (20 ml) was added at 0° C. (ice water bath) ammonium hydroxide solution (25%, 5 ml). The reaction mixture was stirred at room temperature for 1 h, evaporated, poured into water (30 ml) and extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with brine (2×30 ml), dried (MgSO4) and evaporated. The crude product was further purified by crystallization from ethyl acetate/hexane to yield 5-methyl-4-nitro-thiophene-2-sulfonamide (0.75 g, 82%) as a brown solid. MS (ISP) 221.0 [(M−H)−], mp 120° C.

reactant | 5-methyl-4-nitrothiophene-2-sulfonyl chloride | CC1=C(C=C(S1)S(=O)(=O)Cl)[N+](=O)[O-] | C5H4ClNO4S2
reactant | ammonium hydroxide | 5 ml | [OH-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-methyl-4-nitro-thiophene-2-sulfonamide | 0.75 g, 82% | CC1=C(C=C(S1)S(=O)(=O)N)[N+](=O)[O-] | C5H6N2O4S2
